US04103006
A mixture of eugenol acetate (16 g,0.0777 mol) and mercuric acetate (44.5 g, 1.4 mol) in 160 ml of acetic acid was refluxed for 20 hr. After filtration, the acetic acid solution was poured into water (150 ml) and extracted with ether (200 ml). The etheral solution was washed successively with water, aqueous NaHCO3, saturated NaCl solution and dried (Na2SO4). The solvent was evaporated to give 18 g of coniferyl acetate. Subsequent reduction of the coniferyl acetate with Red-Al gave coniferyl alcohol.

reactant | eugenol acetate | 0.0777 mol, 16 g | C(C)(=O)OC=1C(=CC(=CC1)CC=C)OC | C12H14O3
reactant | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
product | coniferyl acetate | 18 g | C(C)(=O)OC\C=C\C1=CC(OC)=C(O)C=C1 | C12H14O4
